US04400505
Preparation of 2,2'-[Hexamethylenebis[(2,2,6,6-tetramethyl-4-piperidinyl)imino]]bis(4,6-diallylamino-1,3,5-triazine)
A mixture of 2,4-bis(diallylamino)-6-chloro-1,3,5-triazine (14.2 grams; 0.046 mole), 4,4'-(hexamethylenediimino)bis(2,2,6,6-tetramethylpiperidine) (9.2 grams; 0.023 mole), powdered sodium hydroxide (1.84 grams; 0.046 mole), and xylene (50 mls) is heated at reflux for 36 hours using a water separator to remove byproduct water. The reaction mixture is then filtered hot and the filtrate is evaporated to obtain a light yellow oil which solidifies on standing. Recrystallization of the solid from hexane gives white needles which on recovery and drying weigh 9.3 grams, mp 119°-120° C.

reactant | 2,4-bis(diallylamino)-6-chloro-1,3,5-triazine | 0.046 mole, 14.2 grams | C(C=C)N(C1=NC(=NC(=N1)N(CC=C)CC=C)Cl)CC=C | C15H20ClN5
reactant | 4,4'-(hexamethylenediimino)bis(2,2,6,6-tetramethylpiperidine) | 0.023 mole, 9.2 grams | N(CCCCCCNC1CC(NC(C1)(C)C)(C)C)C1CC(NC(C1)(C)C)(C)C | C24H50N4
reactant | sodium hydroxide | 0.046 mole, 1.84 grams | [OH-].[Na+]
reactant | xylene | 50 mls | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 2,2'-[Hexamethylenebis[(2,2,6,6-tetramethyl-4-piperidinyl)imino]]bis(4,6-diallylamino-1,3,5-triazine) | CC1(NC(CC(C1)N(CCCCCCN(C1CC(NC(C1)(C)C)(C)C)C1=NC(=NC(=N1)NCC=C)NCC=C)C1=NC(=NC(=N1)NCC=C)NCC=C)(C)C)C | C42H72N14
